US04415563
Preparation of 1,6-Bis-(1-azacyclopentan-2-onyl) hexane having the formula
11.62 g (0.1 M) of 1,6-diaminohexane and 21.66 g (0.25 M) of γ-butyrolactone were mixed and heated to 150°-165° for 22 hours. Excess γ-butyrolactone was then distilled off at reduced pressure (80°/2 mm). The light brown residue was poured into a crystallization dish where it immediately solidified. The solid was taken in chloroform, powdered, filtered and the tan powder was washed with chloroform. Yield 22.0 g (87%); melting point 101°-103°.

reactant | 1,6-diaminohexane | 0.1 M, 11.62 g | NCCCCCCN | C6H16N2
reactant | γ-butyrolactone | 0.25 M, 21.66 g | C1(CCCO1)=O | C4H6O2
product | 1,6-Bis-(1-azacyclopentan-2-onyl) hexane | N1(C(CCC1)=O)CCCCCCN1C(CCC1)=O | C14H24N2O2
